US04699990
[2-(Hexadecyloxy)ethyl]oxirane
To a solution of 100 g of 1-(3-butenyloxy)-hexadecane in 640 ml of methylene chloride was added portionwise 69 g of m-chloroperbenzoic acid. The mixture was stirred under argon for 72 hours and then the solvents were removed. The residue was dissolved in ether and washed with saturated aqueous sodium bicarbonate, dried and evaporated to an oil. This oil was distilled (140°-150° C., 0.05 mm Hg) giving 83.4 g of the desired compound as an oil.

reactant | 1-(3-butenyloxy)-hexadecane | 100 g | C(CC=C)OCCCCCCCCCCCCCCCC | C20H40O
reactant | m-chloroperbenzoic acid | 69 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 640 ml | C(Cl)Cl | CH2Cl2
product | [2-(Hexadecyloxy)ethyl]oxirane | 83.4 g | C(CCCCCCCCCCCCCCC)OCCC1OC1 | C20H40O2
